US05352381
Step 2.1 4-n-pentylthiobromobenzene
A mixture of 4-bromothiophenol (30 g), pentyl bromide (26.4 g), sodium hydroxide (6-67 g) and water (30 ml) was heated at 90° C. and stirred for 48 hrs. The mixture was then poured into water, extracted with petroleum spirit, dried and distilled (bp 96° C. at 0.11 mmHG). Yield 27.3 g.

reactant | 4-bromothiophenol | 30 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | pentyl bromide | 26.4 g | C(CCCC)Br | C5H11Br
reactant | sodium hydroxide | 6-67 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 30 ml | O | H2O
product | 4-n-pentylthiobromobenzene | C(CCCC)SC1=CC=C(C=C1)Br | C11H15BrS
